US07217710B2
Preparation of 4-(6-Methanesulfonyl-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl) -phenyl amine
[4-(6-Methanesulfonyl-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-phenyl]carbamic acid tert-butyl ester (1.49 g, 3.70 mmol) was treated with TFA (30% in CH2Cl2, 40 ml) at room temperature for 1 hr. Solvent was removed on rotavap and the residual was taken into 5% Na2CO3 (50 ml) and the product was extracted by CH2Cl2×10, the organic extracts were combined and washed by brine, drying and concentration left 750 mg as a light brown solid; LC/MS(m/e)=304 (MH+).

reactant | [4-(6-Methanesulfonyl-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-phenyl]carbamic acid tert-butyl ester | 3.70 mmol, 1.49 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=NN(C2=NC(=NC=C21)S(=O)(=O)C)C)=O | C18H21N5O4S
solvent | TFA | 40 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(6-Methanesulfonyl-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl) -phenyl amine | CS(=O)(=O)C1=NC=C2C(=N1)N(N=C2C2=CC=C(C=C2)N)C | C13H13N5O2S
